US04923857
To a solution of (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine (3.73 g) in ethyl acetate (100 ml) was added 12N hydrochloric acid (0.82 ml) at ambient temperature. After stirring at ambient temperature for 30 minutes, to the mixture were added sodium hydrogen carbonate (1.90 g) and cold water (100 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was chromatographed on silica gel (100 ml) eluting with a mixture of n-hexane and ethyl acetate (7:3-2:8 V/V) to give (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-hydroxymethylpyrrolidine (2.04 g).

reactant | (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-t-butyldimethylsilyloxymethylpyrrolidine | 3.73 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)N(C)C(=O)OCC=C)CO[Si](C)(C)C(C)(C)C | C20H36N2O5Si
reactant | hydrochloric acid | 12N, 0.82 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 1.90 g | C(O)([O-])=O.[Na+]
reactant | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-1-allyloxycarbonyl-4-(N-allyloxycarbonyl-N-methylamino)-2-hydroxymethylpyrrolidine | 2.04 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)N(C)C(=O)OCC=C)CO | C14H22N2O5
